US04766125
A mixture of 2.5 parts of [(2-naphthalenyloxy)methyl]oxirane, 3.31 parts of 3-(aminocarbonyl)-N-(2,6-dichlorophenyl)-1-piperazineacetamide, 45 parts of benzene and 20 parts of methanol was stirred first for 3 hours at room temperature and further for 30 hours at reflux. The reaction mixture was cooled and purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in 2-propanol and acetonitrile. Upon stirring overnight, the salt was filtered off and dried over week-end, yielding 1.39 parts (23%) of 3-(aminocarbonyl)-N-(2,6-dichlorophenyl)-4-[2-hydroxy-3-(2-naphthalenyloxy)propyl]-1-piperazineacetamide dihydrochloride monohydrate; mp. 155.3° C. (compound 69).

reactant | [(2-naphthalenyloxy)methyl]oxirane | C1=C(C=CC2=CC=CC=C12)OCC1OC1 | C13H12O2
reactant | 3-(aminocarbonyl)-N-(2,6-dichlorophenyl)-1-piperazineacetamide | NC(=O)C1CN(CCN1)CC(=O)NC1=C(C=CC=C1Cl)Cl | C13H16Cl2N4O2
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | methanol | CO | CH4O
product | 3-(aminocarbonyl)-N-(2,6-dichlorophenyl)-4-[2-hydroxy-3-(2-naphthalenyloxy)propyl]-1-piperazineacetamide dihydrochloride monohydrate | 23% | O.Cl.Cl.NC(=O)C1CN(CCN1CC(COC1=CC2=CC=CC=C2C=C1)O)CC(=O)NC1=C(C=CC=C1Cl)Cl | InChI=1S/C26H28Cl2N4O4.2ClH.H2O/c27-21-6-3-7-22(28)25(21)30-24(34)15-31-10-11-32(23(14-31)26(29)35)13-19(33)16-36-20-9-8-17-4-1-2-5-18(17)12-20;;;/h1-9,12,19,23,33H,10-11,13-16H2,(H2,29,35)(H,30,34);2*1H;1H2
